US05346917
A mixture of thiosolicyclic acid (50.14 g, 0.33 mol) and cupric acetate (5.0 g) in DMSO (500 mL) was brought to reflux and potassium carbonate (54.3 g) was added in portions. 3-Bromochlorobenzene (42 mL, 0.36 mol) was then added via syringe and the mixture was refluxed for 3 hours. The reaction mixture was poured into water, treated with charcoal and filtered through celite. The filtrate was acidified with concentrated HCl and the precipitate which formed was collected by filtration, washed with water and dried in vacuo at 60° C. to afford 75.01 g (86%) of 2-[(3-chlorophenyl)thio]benzoic acid.

reactant | potassium carbonate | 54.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-Bromochlorobenzene | 0.36 mol, 42 mL | BrC=1C=C(C=CC1)Cl | C6H4BrCl
reactant | water | O | H2O
reactant | charcoal | C | CH4
reactant | DMSO | 500 mL | CS(=O)C | C2H6OS
product | 2-[(3-chlorophenyl)thio]benzoic acid | 75.01 g, 86% | ClC=1C=C(C=CC1)SC1=C(C(=O)O)C=CC=C1 | C13H9ClO2S
